US09447106B2
Step 2: 8-Nitro-5-oxo-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide
To a solution of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (30 mg, 0.10 mmol) in DMF (5 mL) was added K2CO3 (28 mg, 0.20 mmol) and methyl 2-(2-fluoro-5-nitrophenyl)acetate (21 mg, 0.10 mmol). The mixture was warmed to 80° C. stirred for about 16 hr. After cooling down to RT, the mixture was concentrated under reduced pressure to remove solvent. The residue was portioned with DCM (10 mL) and water (10 mL), the aqueous was extracted with DCM (2×10 mL), the combined organic phases were washed sat. Sodium chloride (10 mL), dried over anhydrous Sodium sulfate, filtered, concentrated and purified by pre-TLC (DCM/CH3OH=20/1) got the product about 10 mg (21.9%). 1H NMR (400 MHz, DMSO-d6) δ 10.66 (br s, 1H), 8.51 (d, J=2.6 Hz, 1H), 8.37 (dd, J=2.6, 9.2 Hz, 1H), 8.07 (d, J=9.2 Hz, 1H), 7.85 (d, J=8.8 Hz, 2H), 7.65-7.53 (br s, 2H), 7.45-7.40 (m, 2H), 7.22-7.16 (m, 1H), 7.12-7.05 (m, 4H), 3.92 (s, 2H). MS (ESI) m/e [M+1]+ 456.1.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.10 mmol, 30 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | K2CO3 | 0.20 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-(2-fluoro-5-nitrophenyl)acetate | 0.10 mmol, 21 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)OC | C9H8FNO4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-Nitro-5-oxo-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide | [N+](=O)([O-])C=1C=CC2=C(CC(NC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)=O)C1 | C24H17N5O5
